US08957062B2
Step C: 2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl}cyclopropyl]ethanol
In a 500 ml RBF was added a solution of 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carbonitrile (15.3 g, 85 mmol) in 1:1 THF:EtOAc (150 ml). To this solution was added N-hydroxy-2-methylpropanimidamide (9.93 g, 97 mmol) as a solid and the resulting mixture was stirred to yield a clear solution. An addition funnel was added to the flask and the whole set up was set under nitrogen atmosphere. The solution was placed in an oil bath heated to 70° C. A 0.5M solution of zinc chloride (204 ml, 102 mmol) in THF was placed in the addition funnel and added over a 5 minute period to the reaction mixture. Upon complete addition, the resulting mixture was stirred at 70° C. for 2 hours. After 30 minutes the clear solution became cloudy. After 1 hour at 70° C., a thick white precipitate formed. TLC indicates consumption of the all starting material. The mixture was cooled to RT and the white solid was filtered off and washed with 1:1 THF:EtOAc (200 mL) and dried. The white solid in the fitted funnel was dissolved in 100 mL of DMF and drawn through by vacuum into a 250 ml RBF. To this solution was then added Tosic Acid (8.07 g, 42.4 mmol) and the resulting mixture stirred at 80° C. overnight. (LCMS after 2.5 hrs showed the reaction was ˜30-40% complete with no other by-products forming.) The mixture was allow to cool to room temperature and then was diluted with 150 mL of ethyl acetate. The mixture was placed in a separatory funnel and washed with sat'd sodium bicarbonate solution (150 mL). The aqueous was extracted once with ethyl acetate (100 mL) and the organics were combined. The organics were washed with 1M Na2CO3 (50 mL), followed by water (2×100 mL), and then brine (100 mL). The organics were dried over sodium sulfate, filtered, and the filtrate concentrated to dryness under reduced pressure. The residue was taken up in 50 mL DCM and loaded onto a Flash 75 system (silica gel column). Biotage Flash 75 purification was done eluting with 20-70% ethyl acetate/hexane for 4 column volumes followed by 70% ethyl acetate for 4 column volumes (total solvent 16 L). The fractions containing the product were collected and concentrated under reduced pressure to afford the pure product. LC/MS (m/z): 280 (M+H)+.

reactant | 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl]piperidine-1-carbonitrile | 85 mmol, 15.3 g | OCC[C@H]1[C@H](C1)C1CCN(CC1)C#N | C11H18N2O
reactant | N-hydroxy-2-methylpropanimidamide | 97 mmol, 9.93 g | ONC(C(C)C)=N | C4H10N2O
reactant | Tosic Acid | 42.4 mmol, 8.07 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 102 mmol, 204 ml | [Cl-].[Zn+2].[Cl-]
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | 2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl}cyclopropyl]ethanol | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C15H25N3O2
